US05627198
5-(Phenylcarbonyl)thiophene-2-carboxylic acid:
A 1.6M solution of n-butyllithium in n-hexane (51.0 ml, 81.3 mmol) is added dropwise to diisopropylamine (11.6 ml, 82.2 mmol) in 150 ml of absolute THF at -70° C. After stirring at -70° C. for 15 minutes, thiophene-2-carboxylic acid (5.00 g, 39.0 mmol) is added and the mixture is held at -70° C. After 45 minutes benzonitrile (5.0 ml, 49 nunol) is added dropwise and the mixture is stirred at -70° C. for 90 minutes. After equilibration to room temperature, the reaction mixture is poured into 200 ml of water and subjected to extraction with 200 ml of ether, and this organic phase is discarded. The aqueous phase is adjusted to a pH of 2 using a 6N HCl solution and is subjected to extraction with 2×200 ml of ether. The combined organic phases are dried over magnesium sulfate and the solvent is distilled off. The residue is suspended in 50 ml of 6N HCl solution and the suspension is heated at 80° C. for one hour. The precipitated crystals are filtered off and dried under vacuum overnight.

reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 81.3 mmol, 51.0 ml | CCCCCC | C6H14
reactant | diisopropylamine | 82.2 mmol, 11.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | thiophene-2-carboxylic acid | 39.0 mmol, 5.00 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | benzonitrile | 5.0 ml | C(C1=CC=CC=C1)#N | C7H5N
product | 5-(Phenylcarbonyl)thiophene-2-carboxylic acid | C1(=CC=CC=C1)C(=O)C1=CC=C(S1)C(=O)O | C12H8O3S
